US08119655B2
4-Bromo-1H-indole-3-carbaldehyde (4.0 g, 17.8 mmol) was stirred in acetic anhydride (20 mL) at reflux for 4 h. The reaction was cooled and concentrated in vacuo. Cold MeOH was added to precipitate a white solid, which was collected by filtration to give 3.5 g (74%) of 1-acetyl-4-bromo-1H-indole-3-carbaldehyde. MS (ES) [m+H] calc'd for C11H8BrNO2, 266, 268; found 266, 268.

reactant | 4-Bromo-1H-indole-3-carbaldehyde | 17.8 mmol, 4.0 g | BrC1=C2C(=CNC2=CC=C1)C=O | C9H6BrNO
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-4-bromo-1H-indole-3-carbaldehyde | 3.5 g, 74% | C(C)(=O)N1C=C(C2=C(C=CC=C12)Br)C=O | C11H8BrNO2
